US07923450B2
4-(4-Phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzoic acid methyl ester
A suspension of 1-(4-ethoxycarbonylphenyl)-2-thiourea (105 mg, 0.5 mmol) and of 2-bromo-6-phenyl-cyclohexanone (253.1 mg, 1.00 mmol) in ethanol (4 mL) was heated for two days to reflux under an atmosphere of nitrogen. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was dissolved in dichloromethane. The product was precipitated with diethyl ether and heptane as an oil, which was purified on silica gel with dichloromethane as eluent to yield the title compound (120 mg, 63%) as a pale-yellow solid. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.42 (s, 1H), 7.77 (d, 2H), 7.50 (d, 2H), 7.28 (t, 2H), 7.27 (t, 1H), 7.12 (d, 2H), 4.23 (q, 2H), 4.06 (m, 1H), 2.73 (m, 2H), 2.12 (m, 1H), 1.70-1.90 (m, 3H), 1.27 (t, 3H).

reactant | 1-(4-ethoxycarbonylphenyl)-2-thiourea | 0.5 mmol, 105 mg | C(C)OC(=O)C1=CC=C(C=C1)NC(=S)N | C10H12N2O2S
reactant | 2-bromo-6-phenyl-cyclohexanone | 1.00 mmol, 253.1 mg | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 4-(4-Phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzoic acid methyl ester | 120 mg, 63% | COC(C1=CC=C(C=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2)=O | C21H20N2O2S
